US05200420
Isopropyl 3-cyano-2,6-dimethyl-4-(2-phenyl-benzothiazol-7-yl)-1,4-dihydropyridine-5-carboxylate
10 mmol of 2-phenyl-benzothiazole-7-carboxaldehyde, 10 mmol of isopropyl acetoacetate and 10 mmol of 3-aminocrotononitrile are boiled overnight in 20 ml of ethanol, the mixture is concentrated and the residue is purified on a silica gel column (cyclohexane/ethyl acetate=6:4)

reactant | 2-phenyl-benzothiazole-7-carboxaldehyde | 10 mmol | C1(=CC=CC=C1)C=1SC2=C(N1)C=CC=C2C=O | C14H9NOS
reactant | isopropyl acetoacetate | 10 mmol | C(CC(=O)C)(=O)OC(C)C | C7H12O3
reactant | 3-aminocrotononitrile | 10 mmol | N\C(=C/C#N)\C | C4H6N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Isopropyl 3-cyano-2,6-dimethyl-4-(2-phenyl-benzothiazol-7-yl)-1,4-dihydropyridine-5-carboxylate | C(#N)C1=C(NC(=C(C1C1=CC=CC=2N=C(SC21)C2=CC=CC=C2)C(=O)OC(C)C)C)C | C25H23N3O2S
